US06211234B1
A solution of ethyl (RS)-2,4-dioxo-4-[2-(1-(2-methylphenyl)ethoxy)-4-(3-thienylmethoxy)phenyl]butanoate (0.38 g) in 15% methanolic potassium hydroxide (25 mL) is stirred at reflux for 1 hour before being cooled and concentrated under reduced pressure. The residue is dissolved in water, acidified to pH 1 with concentrated hydrochloric acid and extracted with ethyl acetate. The organic layer is dried over magnesium sulphate, filtered and concentrated under reduced pressure. The residue is recrystallised from cyclohexane to give (RS)-2,4-dioxo-4-[2-(1-(2-methylphenyl)ethoxy)-4-(3-thienylmethoxy)-phenyl]butanoic acid (35 mg) as a yellow solid, m.p. 124-6° C. [Elemental analysis:- C, 65.82; H, 5.03%; Calculated for C24H22O6S:- C, 65.74; H, 5.06%].

reactant | ethyl (RS)-2,4-dioxo-4-[2-(1-(2-methylphenyl)ethoxy)-4-(3-thienylmethoxy)phenyl]butanoate | 0.38 g | O=C(C(=O)OCC)CC(C1=C(C=C(C=C1)OCC1=CSC=C1)OC(C)C1=C(C=CC=C1)C)=O | C26H26O6S
solvent | potassium hydroxide | 25 mL | [OH-].[K+]
product | (RS)-2,4-dioxo-4-[2-(1-(2-methylphenyl)ethoxy)-4-(3-thienylmethoxy)-phenyl]butanoic acid | 35 mg | O=C(C(=O)O)CC(C1=C(C=C(C=C1)OCC1=CSC=C1)OC(C)C1=C(C=CC=C1)C)=O | C24H22O6S
